US08536209B2
5-Phenyl-oxazole-4-carboxylic acid [2-(5-methanesulfonyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide
Following general procedure A, starting from 2-(5-methanesulfonyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-ylamine and 5-phenyl-oxazole-4-carboxylic acid.

reactant | 2-(5-methanesulfonyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-ylamine | CS(=O)(=O)C1=CC=C(O1)CN1N=CC(=N1)N | C8H10N4O3S
reactant | 5-phenyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C1=C(N=CO1)C(=O)O | C10H7NO3
product | 5-Phenyl-oxazole-4-carboxylic acid [2-(5-methanesulfonyl-furan-2-ylmethyl)-2H-[1,2,3]triazol-4-yl]-amide | CS(=O)(=O)C1=CC=C(O1)CN1N=CC(=N1)NC(=O)C=1N=COC1C1=CC=CC=C1 | C18H15N5O5S
